US04036979
Preparation of 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)urea
A solution of 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-yl)urea (0.35 g., 1.37 mmole) in acetone (40 ml.) is treated with manganese dioxide (3.5 g.). After 2 hours stirring the reaction mixture is filtered through celite, the cake washed thoroughly with acetone and the filtrate and washings evaporated to furnish 0.32 g. on 90.7% yield of the title compound as a crystalline solid, m.p. 155°-158° C. Recrystallization from hot acetone affords the analytical sample, m.p. 159°-162° C.

reactant | 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-yl)urea | 1.37 mmole, 0.35 g | COCNC(=O)NC1CCC(C=2SC=CC21)O | C11H16N2O3S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 3.5 g | [O-2].[O-2].[Mn+4]
product | 1-(methoxymethyl)-3-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)urea | 90.7% yield | COCNC(=O)NC1CCC(C=2SC=CC21)=O | C11H14N2O3S
